US07199125B2
(±) ethyl (4′S,7aS)-3′-acetyl-7a-ethyl-2-methyl-1,3-dioxotetrahydro-1H-spiro[pyrrolo[1,2-c]imidazole-6,2′-[1,3]thiazolidine]-4′-carboxylate
To a solution of ethyl (4′R,7aS)-7a-(4-cyanophenyl)-2-(3,5-dichlorophenyl)-1,3-dioxotetrahydro-1H-spiro[pyrrolo[1,2-c]imidazole-6,2′-[1,3]thiazolidine]-4′-carboxylate (examples 12–13, crude mixture of isomers, 0.30 g, 0.58 mmol) and ET3N (0.10 ml, 0.6 mmol)) in acetonitrile (3 mL) was added acetyl chloride (0.05 ml) and the contents stirred one night at RT. The reaction mixture was concentrated under reduced pressure and partitioned between dichloromethane (25 mL) and 1N Hydrochloric acid (10 mL). The dichloromethane layer was washed with 1N Sodium Bicarbonate, water then dried over sodium sulfate, concentrated and purified by silica gel chromatography using cyclohexane/ethyl acetate as the eluent, diluted with t-butyl methyl ether, washed with water, NaHCO3 solution, water then dried over sodium sulfate, concentrated and purified by silica gel chromatography using dichloromethane/acetone as the eluent. yield: 0.016 g. 1H NMR (CDCl3): 7.6 (2H, d), 7.35 (2H, d), 7.3 (1H, m), 6.8 (2H, m), 4.9 (1H, m), 4.75 (1H, d), 4.3 (2H, q), 4.05 (1H, d), 3.5–3.2 (5H, m), 2.65 (1H, d), 2.15 (3H, s), 1.3 (3H, t).

reactant | ethyl (4′R,7aS)-7a-(4-cyanophenyl)-2-(3,5-dichlorophenyl)-1,3-dioxotetrahydro-1H-spiro[pyrrolo[1,2-c]imidazole-6,2′-[1,3]thiazolidine]-4′-carboxylate | C(#N)C1=CC=C(C=C1)[C@]12N(C(N(C1=O)C1=CC(=CC(=C1)Cl)Cl)=O)CC1(SC[C@H](N1)C(=O)OCC)C2 | C24H20Cl2N4O4S
reactant | acetyl chloride | 0.05 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (±) ethyl (4′S,7aS)-3′-acetyl-7a-ethyl-2-methyl-1,3-dioxotetrahydro-1H-spiro[pyrrolo[1,2-c]imidazole-6,2′-[1,3]thiazolidine]-4′-carboxylate | C(C)(=O)N1C2(SC[C@@H]1C(=O)OCC)C[C@@]1(N(C(N(C1=O)C)=O)C2)CC | C16H23N3O5S
